US08119805B2
Stage (ii): (S)-tert-Butyl 2-(3-(perfluorophenoxysulfonyl)propyl)pyrrolidine-1-carboxylate
1-Ethylpiperidine hypophosphite (30 g, 168 mmol) were weighed into the reaction flask under an inert gas, and methylene chloride (100 ml) was added. The solution was cooled with ice-water and 2,3,4,5,6-pentafluorophenyl 1-ethylenesulfonate (5.06 g, 18.5 mmol) [Org. Lett.; 2002; 4(15); 2549-2551] and (S)-tert-butyl 2-(iodomethyl)pyrrolidine-1-carboxylate (5.22 g, 16.8 mmol) was added at 10° C. Triethylborane solution (1.6 ml, 1 mol/l) was added and compressed air was then passed through the mixture for 5 sec. After stirring for min the addition of triethylborane solution-compressed air was repeated with the same amount. The cooling bath was removed, the mixture was stirred for 10 min and the reaction mixture was then washed with water (20 ml) and saturated sodium chloride solution (20 ml), dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel) with hexane/diethyl ether (2:1). Yield: 2.81 g (36%)

reactant | 1-Ethylpiperidine hypophosphite | 168 mmol, 30 g | [PH2](=O)O.C(C)N1CCCCC1
reactant | 2,3,4,5,6-pentafluorophenyl 1-ethylenesulfonate | 18.5 mmol, 5.06 g | C=CS(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C8H3F5O3S
reactant | (S)-tert-butyl 2-(iodomethyl)pyrrolidine-1-carboxylate | 16.8 mmol, 5.22 g | IC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H18INO2
reactant | Triethylborane | 1 mol/l, 1.6 ml | C(C)B(CC)CC | C6H15B
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (S)-tert-Butyl 2-(3-(perfluorophenoxysulfonyl)propyl)pyrrolidine-1-carboxylate | FC1=C(OS(=O)(=O)CCC[C@H]2N(CCC2)C(=O)OC(C)(C)C)C(=C(C(=C1F)F)F)F | C18H22F5NO5S
